US08017607B2
A mixture of rac-(2S,3S,4S)-2,3-bis(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile (150.0 mg, 0.35 mmol) and 4-isocyanato-benzoic acid methyl ester (Aldrich, 86.0 mg, 0.53 mmol) in CH2Cl2 (5 mL) was stirred at rt for 3 h. The reaction mixture was then concentrated and purified by flash column to give rac-4-{[(2S,3S,4S)-2,3-bis-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]amino}-benzoic acid methyl ester (141.6 mg, 66.6%) which was used in the next step without further purification.

reactant | rac-(2S,3S,4S)-2,3-bis(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile | 0.35 mmol, 150.0 mg | ClC1=CC(=C(C=C1)C1NCC(C1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)F | C22H22Cl2F2N2
reactant | 4-isocyanato-benzoic acid methyl ester | 0.53 mmol, 86.0 mg | COC(C1=CC=C(C=C1)N=C=O)=O | C9H7NO3
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | rac-4-{[(2S,3S,4S)-2,3-bis-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]amino}-benzoic acid methyl ester | 141.6 mg, 66.6% | COC(C1=CC=C(C=C1)NC(=O)N1[C@@H]([C@@]([C@@H](C1)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)C1=C(C=C(C=C1)Cl)F)=O | C31H29Cl2F2N3O3
